US06696456B1
4(S)-3-[(2R, 3S)-2-Azido-4-benzyloxy-3-hydroxy-butyryl]-4-benzyl-oxazolidin-2-one. To a solution of 4(S)-benzyl-3-[(2S, 3R)-4-benzyloxy-2-bromo-3-hydroxy-butyryl]-oxazolidin-2-one (969 mg, 2.16 mmol) in dimethylformamide (9.0 mL) is added sodium azide (211 mg, 3.25 mmol) and the reaction mixture is stirred at 35° C. for 4 hr. The mixture is diluted with ethyl acetate and washed several times with water, brine and dried over Na2SO4. Filtration and removal of solvents under vacuo gives 4(S)-3-[(2R, 3R)-2-azido-4-benzyloxy-3-hydroxy-butyryl)]-4-benzyl-oxazolidin-2-one as an oil.

reactant | 4(S)-benzyl-3-[(2S, 3R)-4-benzyloxy-2-bromo-3-hydroxy-butyryl]-oxazolidin-2-one | 2.16 mmol, 969 mg | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@@H](COCC1=CC=CC=C1)O)Br)=O | C21H22BrNO5
reactant | sodium azide | 3.25 mmol, 211 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 9.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-benzyl-oxazolidin-2-one | C(C1=CC=CC=C1)C1NC(OC1)=O | C10H11NO2
